US07250433B2
To a solution of (1-carbamoyl-2-isobutyl-cyclopropylmethyl)-carbamic acid tert-butyl ester (5.8 g, 21.5 mmol) in dry DMF (100 mL) was added cyanuric chloride (5.5 g, 30.1 mmol). The reaction mixture was stirred at 0° C. for 30 minutes and was poured into cold 0.5N NaOH (200 mL). The aqueous phase was extracted with EtOAc (2×150 mL) and the combined organic layer was washed with water and brine and dried over Na2SO4. Removal of excess of solvent, followed by purification of the residue by flash column chromatography using hexanes/EtOAc (9:1) as eluent gave 4.9 g (91%) of (1-cyano-2-isobutyl-cyclopropylmethyl)-carbamic acid tert-butyl ester as a colorless foam: 1H NMR (300 MHz, CDCl3) δ 0.86 (m, 1H), 0.94 (d, J=4.0 Hz, 3H), 0.96 (d, J=4.0 Hz, 3H), 1.56 (m, 1H), 1.37-1.56 (m, 12H), 1.71 (m, 1H), 3.32 (d, J=6.1 Hz, 2H), 5.26 (s, 1H); 13C (75 MHz, CDCl3) δ 14.5, 18.8, 21.9, 22.2, 24.4, 28.0, 28.1, 36.3, 40.4, 79.3, 122.9, 155.4; MS (APCI) m/z 253 [M+H]+.

reactant | (1-carbamoyl-2-isobutyl-cyclopropylmethyl)-carbamic acid tert-butyl ester | 21.5 mmol, 5.8 g | C(C)(C)(C)OC(NCC1(C(C1)CC(C)C)C(N)=O)=O | C14H26N2O3
reactant | cyanuric chloride | 30.1 mmol, 5.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | NaOH | 0.5N, 200 mL | [OH-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (1-cyano-2-isobutyl-cyclopropylmethyl)-carbamic acid tert-butyl ester | 4.9 g, 91% | C(C)(C)(C)OC(NCC1(C(C1)CC(C)C)C#N)=O | C14H24N2O2
